US05574178
5-Acetoxy-4,6-di-tert-butyl-2-(4-ethoxycarbonyl-4-methyl-3(E)-butenyl)-2-methyl-2,3-dihydrobenzofuran (13.2 g) was dissolved in benzene (250 ml) and a tetrahydrofuran solution (60 ml) of 1M diisobutylaluminum hydride was added dropwise to the solution under cooling with ice. After stirring the mixture for 1 h, a saturated aqueous solution of ammonium chloride was added and the mixture was subjected to extraction with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (33% ethyl acetate in n-hexane) to afford 5-acetoxy-4,6-di-tert-butyl-2-(5-hydroxy-4-methyl-3(E)-pentenyl)-2-methyl-2,3-dihydrobenzofuran [3.9 g (yield, 33%)] as a colorless oil. In addition, 4,6-di-tert-butyl-5-hydroxy-2-(5-hydroxy-4-methyl-3(E)-pentenyl)-2-methyl-2,3-dihydrobenzofuran [4.2 g (yield, 39%)] was obtained as a colorless oil.

reactant | 5-Acetoxy-4,6-di-tert-butyl-2-(4-ethoxycarbonyl-4-methyl-3(E)-butenyl)-2-methyl-2,3-dihydrobenzofuran | 13.2 g | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)CC\C=C(/C)\C(=O)OCC)C1C(C)(C)C)C(C)(C)C | C27H40O5
reactant | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
reactant | diisobutylaluminum hydride | 1M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 5-acetoxy-4,6-di-tert-butyl-2-(5-hydroxy-4-methyl-3(E)-pentenyl)-2-methyl-2,3-dihydrobenzofuran | 3.9 g, 33% | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)CC\C=C(\CO)/C)C1C(C)(C)C)C(C)(C)C | C25H38O4
